US06306887B1
E. 2-(4-Methoxycarbonyl-2-oxo-butylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
Pyrrolidine-1,2-dicarboxylic acid 2-tert-butyl ester 1-(2,5-dioxo-pyrrolidin-1-yl) ester (1.03 g, 3.3 mmol) was dissolved in DMF (30 mL) and 5-amino-4-oxo-pentanoic acid methyl ester hydrochloride salt (0.60 g, 3.3 mmol) was added. The reaction mixture was stirred at room temperature for 1 h. Triethylamine was added and stirring continued overnight (ca. 16 h). The reaction was poured into water (300 mL) and extracted with ethyl acetate (3×70 mL). The combined organic portion was extracted with saturated aqueous sodium bicarbonate (60 mL), water (2×30 mL), and brine (50 mL). The organic portion was dried over magnesium sulfate and the solvent removed in vacuo. The resulting yellow oil was chromatographed on a Biotage 40S column with ethyl acetate: hexanes (4:1) to give the title compound (0.57 g, 50%). 1HNMR (400 MHz, CDCl3): δ4.2 (m, 3H), 3.65 (s, 3H), 3.43 (m, 1.5H), 3.35 (m, 0.5H), 2.70 (m, 2H), 2.62 (m, 2H), 2.25 (bs, 0.25H), 2.15 (bs, 0.75H), 1.88 (m, 2H), 1.70 (bs, 1H), 1.25 (bs, 9H). MS: Calc'd for C11H18N2O4 (M-BOC): 242.13. Found (M-BOC+1): 243.0.

reactant | Pyrrolidine-1,2-dicarboxylic acid 2-tert-butyl ester 1-(2,5-dioxo-pyrrolidin-1-yl) ester | 3.3 mmol, 1.03 g | O=C1N(C(CC1)=O)OC(=O)N1C(CCC1)C(=O)OC(C)(C)C | C14H20N2O6
reactant | 5-amino-4-oxo-pentanoic acid methyl ester hydrochloride salt | 3.3 mmol, 0.60 g | Cl.COC(CCC(CN)=O)=O
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | 300 mL | O | H2O
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(4-Methoxycarbonyl-2-oxo-butylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.57 g, 50% | C(C)(C)(C)OC(=O)N1C(CCC1)C(NCC(CCC(=O)OC)=O)=O | C16H26N2O6
